US07351719B2
Z32b) N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
1.12 mL (16.440 mmol) thionyl chloride was added to a solution of 1.620 g (4.110 mmol) N-(3-chloro-4-hydroxymethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z32a) in 30 mL toluene and the mixture was stirred for 2 h at 80° C. The reaction mixture was evaporated down i. vac. and the residue recrystallised from ether/petroleum ether. The precipitate was filtered off, washed with petroleum ether and dried in a HV.

reactant | thionyl chloride | 16.440 mmol, 1.12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-(3-chloro-4-hydroxymethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | 4.110 mmol, 1.620 g | ClC=1C=C(C=CC1CO)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C16H12Cl2F3NO3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1CCl)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C16H11Cl3F3NO2
